US07087599B2
A solution of 4-benzyl-9a-butyl-7-methoxy-1,2,9,9a-tetrahydrofluoren-3-one (25.9 mg, 0.718 mmol) in anhydrous CH2Cl2 (1.2 mL) was cooled in a dry ice-acetone bath and stirred under a nitrogen atmosphere while 1M BBr3 in CH2Cl2 (0.215 mL, 0.215 mmol) was added dropwise by syringe. The cooling bath was removed and the mixture was stirred at room temperature for 3.5 hours, after which it was diluted with EtOAc (8 mL), water (3 mL) and 2N HCl (1 mL) and shaken vigorously. The organic phase was separated, washed with water (3 mL), 1M pH 3 phosphate (3 mL) and brine (3 mL), dried over MgSO4, filtered and evaporated under vacuum to a solid (25 mg). The crude product was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate, using 5% MeOH in CH2Cl2 as developing solvent. The major UV visible band at Rf 0.40-0.53 gave 4-benzyl-9a-butyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as a yellow solid.

reactant | 4-benzyl-9a-butyl-7-methoxy-1,2,9,9a-tetrahydrofluoren-3-one | 0.718 mmol, 25.9 mg | C(C1=CC=CC=C1)C=1C(CCC2(CC3=CC(=CC=C3C12)OC)CCCC)=O | C25H28O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.215 mmol, 0.215 mL | C(Cl)Cl | CH2Cl2
product | 4-benzyl-9a-butyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(C1=CC=CC=C1)C=1C(CCC2(CC3=CC(=CC=C3C12)O)CCCC)=O | C24H26O2
